Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Dilantin Kapseal / Zofran (as hydrochloride)
 
Attending: ___.
 
Chief Complaint:
Right hip pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o F with PMHx CHF, Afib not on 
anticoagulation, severe advanced Alzheimer's dementia, 
osteoporosis, HTN, who presents from assisted living facility 
with R hip pain.

The patient has severe dementia, with short term memory loss so 
is unable to provide history. Much of the history is obtained 
from multiple family members in the room. She has multiple 
family members who live close by and are involved intimately in 
her care. They were called from the assisted living facility 
this morning when the patient was in ___ right hip pain. This 
occurred suddenly. No trauma. No reported falls. She was not 
complaining of other symptoms. She was brought to the ED. 

Discussing with the patient, she moved into the Assisted living 
facility in ___ in ___ given worsening of her 
dementia. She was in her USOH, bowling weekly and very social, 
until ___ when she developed acute SOB with ambulation 
prompting admission to ___ where she was noted 
to be in Afib. She had a week long hospital stay complicated by 
an ICU course for an allergic reaction to a medication (family 
thinks Zofran). Since returning from this hospitalization, she 
has not been back to baseline and has deteriorated. She has 
spent much of her time wheelchair bound given deconditioning. 
She has worsening memory function, now with severe short term 
memory loss. Decreased appetite and PO intake. She was recently 
seen in ___ clinic by Dr. ___ new diagnosis of CHF. She 
underwent an TTE at ___ yesterday ___ to evaluate her 
systolic function. 
 
In the ED, initial vitals were: 
98.7, 96, 122/48, 20, 96% RA. 

Exam was significant for: 
R hip TTP greater trochanter, neg straight leg raise. ___ 
pulses 2+
LLE 2+ edema, unknown duration
Labs were significant for : 
K 2.8 
Cr 0.8
CBC: 13.9/12.5/39.2/168
UA: WBC 22, moderate leuks, negative nitrites 

Studies: 
Lower extremity ultrasound: 1. Deep vein thrombosis of the left 
common femoral vein extending into at least the popliteal vein. 
Left calf veins were not clearly identified and possibly also 
occluded.
2. No DVT in the right lower extremity.

CXR
Bilateral pleural effusions, large on the right and small on the 
left. No definite focal consolidation identified, although 
evaluation is limited secondary to these effusions. 

She was given 80 mEq of K and 60mg Enoxaparin Sodium. 
  
Vitals on transfer were: 97.9, 79, 125/53, 18, 100% Nasal 
Cannula. 
 
On the floor, she is resting comfortably in bed. History is 
obtained as above with family members. She sleeps with 2 pillows 
at home and has DOE. She has not had a bowel movement in 2 days. 


Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough. Denies 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Hypertension
Dementia
Osteoporosis
Irritable bowel syndrome
Macrocytosis of unclear etiology
Left ear hearing loss
Status post hysterectomy
Status post appendectomy
Status post ovarian cyst removal
Cataract surgery
Glaucoma
 
Social History:
___
Family History:
Not relevant to the current admission.
 
Physical Exam:
ADMISSION EXAM 
==============
Vital Signs: 98.3, 107/43, 72, 16, 99 2L NC  
General: AOx1, pleasant, smiling, at baseline per family members 
at bedside 
___: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, soft ___ systolic 
murmur.   
Lungs: Moderate inspiratory effort, decreased breath sounds 
bilaterally at bases L>R. No wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, L>R lower extremity 
swelling with left leg erythematous and tender to palpation, 2+ 
pitting edema tender, right lower extremity with e/o chronic 
venous stasis changes, 1+ pitting edema non tender.  
Neuro: AOx1, strength ___ upper and lower exteremities, all 
facial movements in tact, sensation grossly in tact, gait 
deferred.  
 
DISCHARGE EXAM 
==============
Vitals: T:97.9, 144/59, 72, 20, 93 RA 

General: AOx1, pleasant, smiling, at baseline per family members 
at bedside 
___: Sclera anicteric, MMM  
CV: Irregularly irregular, normal S1 + S2, soft ___ systolic 
murmur.   
Lungs: Moderate inspiratory effort, decreased breath sounds 
bilateral bases 
Ext: Warm, well perfused, 2+ pulses, L>R lower extremity 
swelling with left leg erythematous and minimal tender to 
palpation, 2+ pitting edema tender, right lower extremity with 
e/o chronic venous stasis changes, 1+ pitting edema non tender.  

Neuro: AOx1  

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:35AM URINE  RBC-2 WBC-22* BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 11:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 12:00PM   PLT COUNT-168
___ 12:00PM   NEUTS-81.1* LYMPHS-10.8* MONOS-6.7 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-11.29* AbsLymp-1.51 AbsMono-0.94* 
AbsEos-0.02* AbsBaso-0.03
___ 12:00PM   WBC-13.9* RBC-3.78* HGB-12.5 HCT-39.2 
MCV-104* MCH-33.1* MCHC-31.9* RDW-13.6 RDWSD-51.9*
___ 12:00PM   CALCIUM-7.8* PHOSPHATE-3.7 MAGNESIUM-1.6
___ 12:00PM   cTropnT-0.03* proBNP-8428*
___ 12:00PM   GLUCOSE-118* UREA N-26* CREAT-0.8 SODIUM-144 
POTASSIUM-2.8* CHLORIDE-95* TOTAL CO2-38* ANION GAP-14

STUDIES
=======

CXR 
Bilateral pleural effusions, large on the right and small on the 
left.  No 
definite focal consolidation identified, although evaluation is 
limited 
secondary to these effusions. 

Pelvis Xray 
There is no acute fracture or dislocation.  No focal lytic or 
sclerotic 
osseous lesion is seen.  There is no radiopaque foreign body.  
Vascular 
calcifications are noted.  The visualized bowel gas pattern is 
nonobstructive. 
  
IMPRESSION:  No acute fracture or dislocation. 

Lower extremity ultrasound 
1. Deep vein thrombosis of the left common femoral vein 
extending into at 
least the popliteal vein.  Left calf veins were not clearly 
identified, 
possibly also occluded. 
2.  No right DVT. 

LAST LABS BEFORE DISCHARGE 
===============================
___ 06:55AM BLOOD WBC-14.9* RBC-3.51* Hgb-11.5 Hct-36.8 
MCV-105* MCH-32.8* MCHC-31.3* RDW-13.8 RDWSD-53.1* Plt ___
___ 06:55AM BLOOD Glucose-109* UreaN-32* Creat-0.9 Na-144 
K-3.7 Cl-96 HCO3-37* AnGap-15
___ 06:55AM BLOOD Albumin-2.5* Calcium-8.0* Phos-3.2 
Mg-1.5*
 
Brief Hospital Course:
___ is a ___ y/o F with PMHx CHF, Afib not on 
anticoagulation, severe advanced Alzheimer's dementia, 
osteoporosis, HTN, who presents from assisted living facility 
with R hip pain, found to have DVT left common femoral vein with 
volume overload. During a meeting with patient and her family, 
decision was made to transition care to comfort-directed 
measures only and to pursue hospice services on discharge. 

ACTIVE ISSUES 
=============
#####   CMO. The team had a family meeting on ___ and decision was 
made to transition care to CMO and pursue 24 hour hospice 
services on discharge. Family did not want to pursue active 
treatments such as Lasix, which would make her uncomfortable 
given incontinence or shots such as lovenox for treatment of 
DVT. Home medications metoprolol, donepezil and Memantine were 
continued for comfort. She was discharged to an ___ 
___ facility. 

OTHER HOSPITAL ISSUES 
=====================

#####   DVT. Deep vein thrombosis of the left common femoral vein 
extending into at least the popliteal vein diagnosed on 
ultrasound on admission. This was likely acquired in the setting 
of immobility, as the patient had been restricted to her 
wheelchair at her assisted living for greater than 1 month due 
to deconditioning. She was initially started on Lovenox for 
treatment but this was discontinued in the setting of transition 
to care to CMO as above. 

#####   Acute CHF. Patient was volume overloaded on presentation with 
pleural effusions. She was diuresed with IV Lasix. Home 
metoprolol was continued at a decreased dose. In the setting of 
transition to care to CMO, Lasix was discontinued. She was 
continued on metoprolol for comfort. She remained on room air 
without respiratory distress.  

#####   Afib. She presented in sinus rhythm, rate controlled on 
metoprolol. Metoprolol was continued at a decreased dose for 
comfort. 

#####   Hip pain. The right hip pain that she presented with was 
resolved by the time of admission. Pelvic xray was without 
fracture. She was treated with Tylenol scheduled for pain 
control. 

#####   Al___ Dementia. She was AOx1 at her baseline per family 
members. She was continued on Aricept/Namenda.  

TRANSITIONAL ISSUES 
===================

- ___ facility to continue writing orders for 
pain/anxiety/secretions and other symptoms. 
- Continued metoprolol succinate and Memantine and donepezil on 
discharge for comfort. Continuation of these medications can be 
further decided at inpatient hospice. 
- MOLST form: DNR/DNI, do not re-hospitalize 

#####   CODE: DNR/DNI, CMO 
#####   CONTACT: HCP ___ (daughter) ___ Primary, 
secondary ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 150 mg PO BID 
2. Torsemide 40 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Donepezil 10 mg PO QHS 
5. raloxifene 60 mg oral DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Namenda XR (MEMAntine) 21 mg oral DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. Calcium Carbonate 1500 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Donepezil 10 mg PO QHS 
2. Metoprolol Succinate XL 200 mg PO DAILY 
3. Namenda XR (MEMAntine) 21 mg oral DAILY 
4. Acetaminophen 1000 mg PO TID 
5. Glycopyrrolate 0.1 mg IV Q6H:PRN excess secretions 
6. Hyoscyamine 0.125 mg SL QID:PRN excess secretions  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis  
--------------- 
Deep Vein Thrombosis  
 
Secondary Diagnosis  
------------------ 
Congestive heart failure 
Atrial fibrillation  
Constipation  
Malnutrition  
Hypertension  
Alzheimer's dementia  

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized with right hip 
pain. We did Xrays of your hip which did not show any fractures. 
We also found a blood clot in your left leg and noticed that 
your heart wasn't pumping very efficiently. We talked with you 
and your family, who shared with us many of your wishes about 
being hospitalized and the type of care you would like to 
receive. We decided to focus on your comfort. Because of this, 
you are being discharged to ___ for hospice care.   

We wish you and your family the ___, 

Your ___ Treatment Team 
 
Followup Instructions:
___